US08426414B2
Part A: 2-Fluoro-6-oxiranyl-pyridine
A mixture of 6-fluoro-pyridine-2-carbaldehyde (1.88 g, 15 mmol), trimethylsulfonium iodide (3.3 g, 16.2 mmol) and KOH (crashed, 3.46 g, 61.9 mmol) in CH3CN (190 mL, containing 0.2 mL of water) was stirred at 65-70° C. under N2 for overnight. The mixture was cooled to rt and diluted with EtOAc (100 mL). After filtration, the filtrate was concentrated. The residue was portioned between H2O (100 mL) and EtOAc (80 mL), the aqueous layer was further extracted with EtOAc (4×80 mL). the combined EtOAc was dried (Na2SO4) and concentrated. The residue was subjected to ISCO (40 g column, hexane 3 min. then 0-60% EtOAc in hexane over 60 min.) to give the desired product (530 mg).

reactant | 6-fluoro-pyridine-2-carbaldehyde | 15 mmol, 1.88 g | FC1=CC=CC(=N1)C=O | C6H4FNO
reactant | trimethylsulfonium iodide | 16.2 mmol, 3.3 g | [I-].C[S+](C)C
reactant | KOH | 61.9 mmol, 3.46 g | [OH-].[K+]
solvent | CH3CN | 190 mL | CC#N | C2H3N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-Fluoro-6-oxiranyl-pyridine | 530 mg | FC1=NC(=CC=C1)C1OC1 | C7H6FNO
